US07935699B2
2-(3,4-Dichloro-phenyl)-3-(tetrahydro-pyran-4-yl)-propionic acid methyl ester (2.26 g, 7.12 mmol) was dissolved in tetrahydrofuran:ethanol:water (6:3:2) reaction (100 mL) and treated with lithium hydroxide monohydrate (1.50 g, 35.6 mmol) at 25° C. It was stirred at 25° C. for 2 h. The reaction was then diluted with a 1 M aqueous solution of potassium hydrogen sulfate (200 mL) and then extracted with ethyl acetate (1×300 mL), the organic layers combined and dried over sodium sulfate, filtered and concentrated in vacuo with silica gel (4 g) and purified by Biotage Flash Chromatography (40M column, Silica gel, 10% methanol/ethyl acetate) to afford 2-(3,4-dichloro-phenyl)-3-(tetrahydro-pyran-4-yl)-propionic acid (2.00 g, 93%) as an off white solid.

reactant | 2-(3,4-Dichloro-phenyl)-3-(tetrahydro-pyran-4-yl)-propionic acid methyl ester | 7.12 mmol, 2.26 g | COC(C(CC1CCOCC1)C1=CC(=C(C=C1)Cl)Cl)=O | C15H18Cl2O3
reactant | lithium hydroxide monohydrate | 35.6 mmol, 1.50 g | O.[OH-].[Li+]
solvent | tetrahydrofuran ethanol water | O1CCCC1.C(C)O.O
solvent | potassium hydrogen sulfate | 200 mL | S(=O)(=O)(O)[O-].[K+]
product | 2-(3,4-dichloro-phenyl)-3-(tetrahydro-pyran-4-yl)-propionic acid | 2.00 g, 93% | ClC=1C=C(C=CC1Cl)C(C(=O)O)CC1CCOCC1 | C14H16Cl2O3
